2110-06-27 07:42:00 Physician Resident Progress Note
Chief Complaint: Asthma exacerbation
   24 Hour Events: Cough less frequent, minimally productive of yellow
   sputum; subjective improvement in air movement with bronchodilator nebs
   Allergies:
   Hydralazine
   lupus like reac
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diltiazem - [**2110-6-26**] 06:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, minimal yellow sputum
   Flowsheet Data as of  [**2110-6-27**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 114 (83 - 124) bpm
   BP: 162/105(115) {97/60(69) - 162/105(115)} mmHg
   RR: 26 (12 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
                  Total In:
                                                                    880 mL
                                                                    300 mL
   PO:
                                                                    680 mL
                                                                    300 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    450 mL
   Urine:
                                                                    750 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -170 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Wheezes : scattered end-expiratory)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   182 K/uL
   15.2 g/dL
   151 mg/dL
   1.2 mg/dL
   24 mEq/L
   4.5 mEq/L
   26 mg/dL
   100 mEq/L
   135 mEq/L
   43.9 %
   10.9 K/uL
        [image002.jpg]
                             [**2110-6-26**]  09:59 PM
                             [**2110-6-27**]  04:12 AM
   WBC
   10.9
   Hct
   43.9
   Plt
   182
   Cr
   1.2
   TropT
   <0.01
   Glucose
   151
   Other labs: PT / PTT / INR:35.9//3.8, CK / CKMB /
   Troponin-T:274/6/<0.01, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   75 y/o F with a h/o asthma and PAF on coumadin presenting an asthma
   exacerbation likely triggered by viral bronchitis.
    #Asthma exacerbation
   -prednisone 30 mg daily f/b brief taper
   -Bronchodilator MDI
   -No indication for ABX at present as is afebrile with normalized WBC,
   no infiltrate on CXR
    .
   # AF with RVR - ischemia unlikely given negative CE's and normal EST
   and perfusion imaging in [**5-1**]; PE unlikely given supratherapeutic INR
   -Rate control with sotalol; add diltiazem 30 mg QID
   -Cont. hold coumadin given supratherapeutic INR, perhaps worsened by
   dose of levoflox
   - TTE (may be done as outpt) to eval. for RV dysfunction, pulm HTN
   given h/o progressive DOE and elevated BNP
   - TSH pending
    .
   #ARF
 suspect pre-renal azotemia in the setting of viral illness,
   diminished PO intake
   -encourage PO intake
   -consider fluid challenge
   .
   #Hyperglycemia
   -RISS while on steroids
   .
   # HTN:  Continue home regimen
   .
   #Hyperlipidemia
 Continue statin
   .
   #F/E/N
   -reg diet
   .
   #Access: PIV
   .
   #PPx: supratherapeutic INR
   .
   #Code status: FULL
   .
   #Dispo: Floor bed
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2110-6-26**] 02:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Floor bed

2110-06-27 11:34:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Improving breathing although still receiving symptomatic benefit from
   albuterol.
   24 Hour Events:
                       History obtained from [**Hospital 15**] Medical records
   Allergies:
   Hydralazine
   lupus like reac
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diltiazem - [**2110-6-26**] 06:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea, Wheeze, Denies SOB at rest
   Flowsheet Data as of  [**2110-6-27**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.4
C (95.8
   HR: 108 (83 - 124) bpm
   BP: 111/72(83) {97/60(69) - 162/105(115)} mmHg
   RR: 18 (12 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
                  Total In:
                                                                    880 mL
                                                                    660 mL
   PO:
                                                                    680 mL
                                                                    660 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    850 mL
   Urine:
                                                                    750 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -170 mL
                                                                   -190 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Wheezes : , Diminished: )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   15.2 g/dL
   182 K/uL
   151 mg/dL
   1.2 mg/dL
   24 mEq/L
   4.5 mEq/L
   26 mg/dL
   100 mEq/L
   135 mEq/L
   43.9 %
   10.9 K/uL
        [image002.jpg]
                             [**2110-6-26**]  09:59 PM
                             [**2110-6-27**]  04:12 AM
   WBC
   10.9
   Hct
   43.9
   Plt
   182
   Cr
   1.2
   TropT
   <0.01
   Glucose
   151
   Other labs: PT / PTT / INR:35.9//3.8, CK / CKMB /
   Troponin-T:274/6/<0.01, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ASTHMA
   Minimally abnml PFT's; has albuterol at home but rarely uses
 ATRIAL FIBRILLATION (AFIB)
   Paroxysmal, on sotalol
 HYPERTENSION, BENIGN
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
 DYSPNEA (SHORTNESS OF BREATH)
   Chronic problems
   Apparent asthma exacerbation likely due to viral illness.  Little to
   suggest a bacterial infection. Remains in AFib at rate 90-110. Will
   discuss with EP whether she needs something other than sotelol for rate
   control.  Given elevated BNP, PR, large [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 884**] whether she has some
   degree of pulm htn that may be contributing to her progressive DOE over
   last year. Would echo as outpatient and arrange pulm f/u with Dr. [**First Name (STitle) **]
   or Dr. [**Last Name (STitle) 885**]. Tapering steroids and will instruct in use of MDI. [**Month (only) 51**]
   need more control of glucose while on steroids.
   ICU Care
   Nutrition:
   Comments: full diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2110-6-26**] 02:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2110-06-28 10:35:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   BP down overnight after diltiazem
   24 Hour Events:
                       History obtained from [**Hospital 15**] Medical records
   Allergies:
   Hydralazine
   lupus like reac
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-6-28**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.2
   HR: 108 (82 - 115) bpm
   BP: 119/81(90) {88/59(63) - 135/97(135)} mmHg
   RR: 19 (10 - 24) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
                  Total In:
                                                                  1,460 mL
                                                                    680 mL
   PO:
                                                                  1,460 mL
                                                                    680 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    850 mL
   Urine:
                                                                  1,650 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -190 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   prolonged exhalation
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   14.2 g/dL
   214 K/uL
   101 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.4 mEq/L
   29 mg/dL
   105 mEq/L
   140 mEq/L
   41.6 %
   11.1 K/uL
        [image002.jpg]
                             [**2110-6-26**]  09:59 PM
                             [**2110-6-27**]  04:12 AM
                             [**2110-6-28**]  06:20 AM
   WBC
   10.9
   11.1
   Hct
   43.9
   41.6
   Plt
   182
   214
   Cr
   1.2
   1.1
   TropT
   <0.01
   Glucose
   151
   101
   Other labs: PT / PTT / INR:29.2/37.8/3.0, CK / CKMB /
   Troponin-T:274/6/<0.01, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ASTHMA
   Minimally abnml PFT's; has albuterol at home but rarely uses
 ATRIAL FIBRILLATION (AFIB)
   Paroxysmal, on sotalol
 HYPERTENSION, BENIGN
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
 DYSPNEA (SHORTNESS OF BREATH)
   Chronic problems
   Diltiazem controlled HR but dropped BP.  We are cutting back on her
   antihypertensives. Continuing to get MDIs qid - no clear relation to
   HR.  Will discuss HR control with EP - may be manageable at home if we
   can adjust dilt dose
   ICU Care
   Nutrition:
   Comments: full diet
   Glycemic Control:  Regular insulin sliding scale, Comments: On steroid
   taper
   Lines:
   20 Gauge - [**2110-6-27**] 08:40 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2110-06-28 10:53:00 Physician Resident Progress Note
Chief Complaint: asthma exacerbation, afib
   24 Hour Events:
   Patient begun on diltiazem 30 mg PO QID to achieve better rate control
   for afib. Had an asymptomatic drop in SBP to 80s-90s systolic. Dose
   decreased to 15 mg PO QID. HR better controlled 80-90's following dose
   change but 6 AM dose held for SBP 93.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsHydralazine
   lupus like reac
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Infrequent dry cough
   Flowsheet Data as of  [**2110-6-28**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.2
   HR: 108 (82 - 115) bpm
   BP: 119/81(90) {88/59(63) - 135/97(135)} mmHg
   RR: 19 (10 - 24) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
                  Total In:
                                                                  1,460 mL
                                                                    680 mL
   PO:
                                                                  1,460 mL
                                                                    680 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    850 mL
   Urine:
                                                                  1,650 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -190 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   214 K/uL
   14.2 g/dL
   101 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.4 mEq/L
   29 mg/dL
   105 mEq/L
   140 mEq/L
   41.6 %
   11.1 K/uL
        [image002.jpg]
                             [**2110-6-26**]  09:59 PM
                             [**2110-6-27**]  04:12 AM
                             [**2110-6-28**]  06:20 AM
   WBC
   10.9
   11.1
   Hct
   43.9
   41.6
   Plt
   182
   214
   Cr
   1.2
   1.1
   TropT
   <0.01
   Glucose
   151
   101
   Other labs: PT / PTT / INR:29.2/37.8/3.0, CK / CKMB /
   Troponin-T:274/6/<0.01, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   75 y/o F with a h/o asthma and PAF on coumadin presenting an asthma
   exacerbation likely triggered by viral bronchitis.
   .
   # AF with RVR - remains asymptomatic, better rate control after
   initiation of dilt, but c/b hypotension even at 15 mg QID
   -Cont. sotalol
   -Diltiazem 15 mg QID while holding dyazide
   -Resume coumadin at usual dose of 2.5 TuThSaSu, 1.25 mg MWF
   - TTE (may be done as outpt) to eval. for RV dysfunction, pulm HTN
   given h/o progressive DOE and elevated BNP
   - TSH WNL
   .
   #Asthma exacerbation - resolved; had some medication teaching
   -prednisone taper 30-30-30-20-20-20-10-10-10
   -atrovent MDI q6
   -albuterol MDI q4/prn
   -may benefit from medication teaching
   -no clinical indication for ABX
    .
   # HTN:  Continue home regimen
   -cont. diovan
   -hold dyazide since added diltiazem
   .
   #Hyperglycemia
 high gluc in AM last 2 days when gets prednisone and
   breakfast
   -RISS
   -will refrain from adding long-acting insulin as tapering steroids
   .
   #Hyperlipidemia
 Cont. statin
   .
   #F/E/N
   -reg diet
   -replete K
   .
   #Access: PIV
   .
   #PPx: therapeutic on coumadin, tolerating a diet
   .
   #Code status: FULL
   .
   #Dispo: Floor bed
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2110-6-27**] 08:40 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:Transfer to floor